US04487927
To a solution of benzhydryl 7-(5-benzhydryloxycarbonyl-5-ethoxycarbonylaminopentanamido)-3-hydroxymethyl-3-cephem-4-carboxylate (18 g) in ethylene chloride (180 ml) were added phosphorus pentachloride (4.82 g) and pyridine (1.83 g) at -30° to -35° C. After stirring for 30 minutes, to the solution was added water (180 ml), and the organic layer was separated and washed with an aqueous sodium chloride. The solution was evaporated, and the residue was dissolved in N,N-dimethylformamide (39 ml). To the solution was added triphenylphosphine (6.66 g) and sodium iodide (3.81 g) at ambient temperature. After stirring for an hour, the mixture was added to diisopropyl alcohol (1000 ml) at 0°-5° and allowed to stand for an hour. The precipitates were collected by filtration, washed with diisopropyl alcohol, and then dissolved in ethylene chloride (160 ml). To the solution were added water (35.3 ml) and 36% aqueous formaldehyde, and the mixture was stirred at ambient temperature for 70 minutes while maintaining the pH value at 9.0 with 40 % aqueous potassium carbonate. The organic layer was separated, washed with an aqueous sodium chloride and dried over magnesium sulfate. The solution was evaporated, and the residue was dissolved in acetone (30 ml). To diisopropyl ether (300 ml) was added the acetone solution. The precipitates were collected by filtration and washed with diisopropyl ether to afford benzhydryl 7-(5-benzhydryloxycarbonyl-5-ethoxycarbonylaminopentanamido)-3-vinyl-3-cephem-4-carboxylate (9.82 g).

reactant | benzhydryl 7-(5-benzhydryloxycarbonyl-5-ethoxycarbonylaminopentanamido)-3-hydroxymethyl-3-cephem-4-carboxylate | 18 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C(CCCC(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)NC(=O)OCC | C43H43N3O9S
reactant | phosphorus pentachloride | 4.82 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | pyridine | 1.83 g | N1=CC=CC=C1 | C5H5N
reactant | water | 180 ml | O | H2O
reactant | ethylene chloride | 180 ml | C(CCl)Cl | C2H4Cl2
product | benzhydryl 7-(5-benzhydryloxycarbonyl-5-ethoxycarbonylaminopentanamido)-3-vinyl-3-cephem-4-carboxylate | 9.82 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C(CCCC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)NC(=O)OCC | C44H43N3O8S
